US05939439
Step 3: Preparation of methyl 4-cyano-3-hydroxybenzoate
A mixture of methyl 3-hydroxy-4-iodobenzoate (101 g, 0.36 mol) and zinc(II)cyanide (30 g, 0.25 mol) in 400 mL of dry DMF was degassed by bubbling argon through the solution for 20 minutes. Tetrakis(triphenylphosphine)palladium (8.5 g, 7.2 mmol) was added, and the solution was heated to 80° C. for 4 hours. The solution was cooled to room temperature, then stirred for an additional 36 hr. The reaction was poured into EtOAc/water, and the organic layer was washed with brine (4×), dried (Na2SO4), and concentrated in vacuo to provide the crude product. Purification by column chromatography through silica gel (30%-50% EtOAc/hexane) provided the title compound. 1H NMR (CDCl3 /CD3OD, 400 MHz): d 7.53-7.56 (m, 3H, 3ArH) and 3.93 (s, 3H, OCH3).

reactant | methyl 3-hydroxy-4-iodobenzoate | 0.36 mol, 101 g | OC=1C=C(C(=O)OC)C=CC1I | C8H7IO3
reactant | EtOAc water | CCOC(=O)C.O
reactant | DMF | 400 mL | CN(C)C=O | C3H7NO
catalyst | zinc(II)cyanide | 0.25 mol, 30 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium | 7.2 mmol, 8.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-cyano-3-hydroxybenzoate | C(#N)C1=C(C=C(C(=O)OC)C=C1)O | C9H7NO3
